US06492377B1
6-benzyl-2-bromomethyl-7-cyclopentyl-4-ethyl-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one
0.6 g of 6-benzyl-7-cyclopentyl-4-ethyl-2-hydroxymethyl-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one are taken up in 7 ml of dichloromethane and 0.25 ml of triethylamine are added at ambient temperature with stirring. Then 0.15 ml of thionyl bromide are added. After 2 hours' stirring at constant temperature the reaction is complete. For working up, the mixture is diluted with 20 ml of dichloromethane and washed successively with 15 ml of water and 15 ml of aqueous sodium chloride solution. The organic phase is dried over magnesium sulphate and the solvent is distilled off in vacuo. The residue remaining is recrystallised from diethyl ether. 0.45 g of the title compound remain, pure enough to be used in the subsequent reactions.

reactant | 6-benzyl-7-cyclopentyl-4-ethyl-2-hydroxymethyl-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one | 0.6 g | C(C1=CC=CC=C1)N1C(=NC2=C1C(N(C=1N2N=C(N1)CO)CC)=O)C1CCCC1 | C21H24N6O2
reactant | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
reactant | thionyl bromide | 0.15 ml | S(=O)(Br)Br | Br2OS
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 6-benzyl-2-bromomethyl-7-cyclopentyl-4-ethyl-imidazo[4,5-e]-s-triazolo[1,5-a]pyrimidin-5-one | C(C1=CC=CC=C1)N1C(=NC2=C1C(N(C=1N2N=C(N1)CBr)CC)=O)C1CCCC1 | C21H23BrN6O
